data/oMe_Silver.jsonl
{"reaction_id": "NR-328_1-CC(C)C_2-c1ccc(C#N)cc1","level": "medium","name": "Zincke Reaction","reactants_smiles": ["c1cccc[n+]1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","N(CC(C)C)c1ccc(C#N)cc1"],"products_smiles": ["N(CC(C)C)(c1ccc(C#N)cc1)C=CC=CC=O"],"conditions": "Polar solvent (e.g., water, ethanol)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)CN(c1ccc(C#N)cc1)C1C=CC=CN1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The amine nucleophile attacks the electron-deficient pyridinium ring, activated by nitro groups, enabling ring opening due to resonance-stabilized cationic intermediates in polar solvent."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "CC(C)CN(c1ccc(C#N)cc1)C=CC=CC=N(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The opened chain undergoes electrocyclization driven by conjugation and relief of charge separation, forming a more stable extended π-system."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CC(C)CN(c1ccc(C#N)cc1)C=CC=CC=O","step_weight": 0,"rationale": "Nucleophilic substitution occurs as the leaving group departs, favored by the stability of the conjugated enaminone product and good leaving ability of the nitro-activated fragment."}],"description": "In the Zincke reaction, a nucleophilic amine opens an activated pyridinium ring substituted with strong electron-withdrawing nitro groups. The ring undergoes electrocyclic rearrangement, followed by substitution to yield a conjugated enaminone. Polar solvents stabilize charged intermediates, facilitating the transformation."}
{"reaction_id": "NR-133_1-S(=O)(=O)C_2-C(O)C","name": "Lobry-de Bruyn-van Ekenstein Rearrangement","level": "medium","reactants_smiles": ["C(O)(C(O)C)C(=O)(S(=O)(=O)C)"],"products_smiles": ["C(=O)(C(O)C)C(O)(S(=O)(=O)C)"],"conditions": "Base or Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(C(O)C)=C([O-])(S(=O)(=O)C)","rationale": "Base abstracts the α-hydroxy proton, generating an enolate stabilized by resonance with the adjacent carbonyl, facilitating rearrangement."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(C(O)C)=C(O)(S(=O)(=O)C)","rationale": "Protonation of the enolate oxygen yields the neutral enediol, stabilized by conjugation between hydroxyl and alkene."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(C(O)C)=C(O)(S(=O)(=O)C)","rationale": "Deprotonation at the other hydroxyl group forms an enolate at the alternate carbon, enabling tautomerization toward the product carbonyl position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(O)C)C(O)(S(=O)(=O)C)","rationale": "Protonation of the enolate oxygen regenerates the carbonyl, producing the thermodynamically favored α-hydroxy carbonyl product."}],"description": "Under basic or acidic conditions, the Lobry-de Bruyn-van Ekenstein rearrangement interconverts an α-hydroxy ketone and an α-hydroxy aldehyde via enediol intermediates. Sequential proton transfers enable tautomerization, driven by stabilization of the enolate/enediol forms and the thermodynamic preference for the carbonyl arrangement in the product."}
